US06855722B2
e) 7-{2-[1-(2-Ethoxycarbonyl-1-phenyl-ethyl)-1H-indol-5-yloxy]-ethyl}-3,4-dihydro-2H-[1,8]naphthyridine-1-carboxylic acid tert-butyl ester
10% Palladium on activated carbon (0.06 g) was added to 7-{2-[1-(2-ethoxycarbonyl-1-phenyl-vinyl)-1H-indol-5-yloxy]-ethyl}-3,4-dihydro-2H-[1,8]naphthyridine-1-carboxylic acid tert-butyl ester (0.50 g, 0.88 mmol) in methanol (10 mL) under argon. The solution was exposed to a hydrogen atmosphere (50 psi) using a Parr shaker for 24 h. The reaction was filtered through celite and washed with methanol. The filtrate was concentrated in vacuo to yield the title compound (0.48 g, 98%). 1H NMR (CDCl3) δ 7.15-7.36 (m, 9H), 6.96 (d, 1H, J=7.6 Hz), 6.83 (dd, 1H, J=2.3, 6.6 Hz), 6.46 (d, 1H, J=3.0 Hz), 6.06 (d, 1H, J=7.6 Hz), 4.39 (m, 2H), 4.06 (q, 2H, J=7.1 Hz), 3.78 (m, 2H), 3.31-3.20 (m, 4H), 2.75 (m, 2H), 1.94 (m, 2H), 1.54 (s, 9H), 1.11 (t, 3H, J=7.1 Hz).

reactant | 7-{2-[1-(2-ethoxycarbonyl-1-phenyl-vinyl)-1H-indol-5-yloxy]-ethyl}-3,4-dihydro-2H-[1,8]naphthyridine-1-carboxylic acid tert-butyl ester | 0.88 mmol, 0.50 g | C(C)(C)(C)OC(=O)N1CCCC2=CC=C(N=C12)CCOC=1C=C2C=CN(C2=CC1)C(=CC(=O)OCC)C1=CC=CC=C1 | C34H37N3O5
reactant | hydrogen | [H][H] | H2
catalyst | Palladium on activated carbon | 0.06 g | [Pd] | Pd
solvent | methanol | 10 mL | CO | CH4O
product | 7-{2-[1-(2-Ethoxycarbonyl-1-phenyl-ethyl)-1H-indol-5-yloxy]-ethyl}-3,4-dihydro-2H-[1,8]naphthyridine-1-carboxylic acid tert-butyl ester | 0.48 g, 98% | C(C)(C)(C)OC(=O)N1CCCC2=CC=C(N=C12)CCOC=1C=C2C=CN(C2=CC1)C(CC(=O)OCC)C1=CC=CC=C1 | C34H39N3O5
